US07960409B2
Step 1: 7-methylquinoline 1-oxide
To a solution of 7-methylquinoline (20.0 g, 140 mmol) in dichloromethane (700 mL) was added 3-chloroperoxybenzoic acid (50%, 62.6 g, 182 mmol) and stirred at room temperature for 2 h. Solid calcium hydroxide (13.4 g, 182 mmol) was added and 15 min later the mixture was filtered through celite, rinsed with dichloromethane and the liquors evaporated to dryness to give the title compound. The compound was used as such for the next step. 1H NMR (400 MHz, acetone-d6): δ 8.45 (m, 2H), 7.93 (d, 1H), 7.80 (d, 1H), 7.55 (d, 1H), 7.35 (m, 1H), 2.60 (s, 3H).

reactant | 7-methylquinoline | 140 mmol, 20.0 g | CC1=CC=C2C=CC=NC2=C1 | C10H9N
reactant | 3-chloroperoxybenzoic acid | 182 mmol, 62.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | calcium hydroxide | 182 mmol, 13.4 g | [OH-].[Ca+2].[OH-]
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
product | 7-methylquinoline 1-oxide | CC1=CC=C2C=CC=[N+](C2=C1)[O-] | C10H9NO
